US08497368B2
(E)-2-(1-(1-(Quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)ethy lidene)hydrazinecarboxamide (Example 52)
To a solution of 1-(1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)ethanone (35 mg, 0.115 mmol) in MeOH (3 mL), was added hydrazinecarboxamide hydrochloride (115 mg, 1.035 mmol). The solution was heated to 37° C. overnight. Triethyl amine (1 mL) was added and the solution was stirred at rt for 20 min. Solvents were removed in vacuo and the residue was diluted with DCM, washed with brine, dried over Na2SO4, filtered and concentrated in vacuo to afford 25 mg of the title compound in 57% yield as a white solid. 1H-NMR (400 MHz, DMSO-d6) δ ppm 9.90 (s, 1H), 9.85 (s, 1H), 8.89 (m, 1H), 3.36 (d, 1H), 8.01 (m, 2H), 7.82 (d, 1H), 7.53 (dd, 1H), 6.17 (s, 2H), 2.32 (s, 3H). LCMS (method A): [MH]+=384, tR=4.09 min.

reactant | 1-(1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)ethanone | 0.115 mmol, 35 mg | N1=CC=CC2=CC(=CC=C12)CN1N=NC=2C1=NC(=CN2)C(C)=O | C16H12N6O
reactant | hydrazinecarboxamide hydrochloride | 1.035 mmol, 115 mg | Cl.N(N)C(=O)N
reactant | Triethyl amine | 1 mL | C(C)N(CC)CC | C6H15N
solvent | MeOH | 3 mL | CO | CH4O
product | (E)-2-(1-(1-(Quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)ethy lidene)hydrazinecarboxamide | 25 mg, 57% yield | N1=CC=CC2=CC(=CC=C12)CN1N=NC=2C1=NC(=CN2)\C(\C)=N\NC(=O)N | C17H15N9O
